US04221814
The procedure of Example 1 was repeated for reacting 7-(propionamido)-2-(4-carboxyphenyl)-4H-3,1-benzoxazine-4-one with n-propanol, and the reaction product was treated as in Example 1 except that the solvent for recrystallization was a mixture of dioxane and water. The product obtained was a 80% yield of propyl 2-(4-carboxybenzamido)-4-propionamidobenzoate having a melting point in the range of from 233° to 235° C.

reactant | 7-(propionamido)-2-(4-carboxyphenyl)-4H-3,1-benzoxazine-4-one | C(CC)(=O)NC1=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(=O)O)=O)C=C1 | C18H14N2O5
reactant | n-propanol | C(CC)O | C3H8O
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | water | O | H2O
product | propyl 2-(4-carboxybenzamido)-4-propionamidobenzoate | 80% yield | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)OCCC)C=CC(=C2)NC(CC)=O)C=C1 | C21H22N2O6
